US04140775
In the manner given in Example 1B, 1-(p-tolyl)-4-(p-nitrobenzyl)piperazine is reduced with aqueous titanium trichloride to give 1-(p-tolyl)-4-[(4-aminophenyl)methyl]piperazine.

reactant | 1-(p-tolyl)-4-(p-nitrobenzyl)piperazine | C1(=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])C | C18H21N3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(p-tolyl)-4-[(4-aminophenyl)methyl]piperazine | C1(=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)N)C | C18H23N3
